US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-4-sulfonamide hydrochloride
Following a procedure analogous to the procedure described in Example 282 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-4-sulfonamide (750 mg, 1.47 mmol) and ammonium hydroxide (12 ml), the title compound was obtained as a white solid (183 mg, 23%). 1HNMR (DMSO-d6): δ ppm 10.13 (s, 1H), 8.23 (s, 1H), 8.11 (br s, 1.5H), 7.68 (s, 1.5H), 7.46-7.49 (dd, J1=7.6 Hz, J2=0.8 Hz, 1H), 7.35 (br s, 1H), 7.27-7.31 (t, J=8.0 Hz, 1H), 6.06 (br s, 2H), 3.82 (s, 3H), 1.42 (s, 9H); MS: 488 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-4-sulfonamide | 1.47 mmol, 750 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C=1C=NN(C1)C)F | C21H20ClFN6O2S2
reactant | ammonium hydroxide | 12 ml | [OH-].[NH4+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-4-sulfonamide hydrochloride | Cl.NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C=1C=NN(C1)C)F | InChI=1S/C21H22FN7O2S2.ClH/c1-21(2,3)19-27-17(18(32-19)15-8-9-24-20(23)26-15)13-6-5-7-14(16(13)22)28-33(30,31)12-10-25-29(4)11-12;/h5-11,28H,1-4H3,(H2,23,24,26);1H
